US06632810B2
Synthesis of 2-methyl-5,6,7-trimethoxyquinoline:
A 6 M hydrochloric acid solution (20 mL) of 3,4,5-trimethoxyaniline (3.1 g) was heated to 100° C., to which crotonaldehyde (1.5 mL) was slowly added dropwise. The mixture was stirred for 3.5 hours as it is. After allowing the reaction mixture to cool, it was washed with ether, and the resultant water layer was alkalified with a potassium carbonate solution. After extracted with ethyl acetate, the resultant organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure, and the residue was then purified by column chromatography on silica gel (ethyl acetate:hexane=1:2 to 1:1) to obtain the title compound.

reactant | 3,4,5-trimethoxyaniline | 3.1 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | crotonaldehyde | 1.5 mL | C(\C=C\C)=O | C4H6O
solvent | hydrochloric acid | 6 M, 20 mL | Cl | ClH
product | 2-methyl-5,6,7-trimethoxyquinoline | CC1=NC2=CC(=C(C(=C2C=C1)OC)OC)OC | C13H15NO3
